US04886339
4'-Diethylamino-4-nitrostilbene (G4)
A mixture of 5.00 g (28 mmol) of 4-diethylaminobenzaldehyde, 5.62 g (31 mmol) of 4-nitrophenylacetic acid, 2.40 g (28 mmol) of piperidine, and 100 mL of xylenes was heated with stirring at reflux for 20 hours with continuous removal of water using a Dean-Stark apparatus. The mixture turned dark red. Approximately half the xylenes was distilled, and the residue was cooled to 3 0° C. Red crystals separated which were collected and then recrystallized from isopropanol/pyridine. Yield: 4.05 g (48%), mp 179-181 (lit2 182°-182.5° C.).

reactant | 4-diethylaminobenzaldehyde | 28 mmol, 5.00 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | 4-nitrophenylacetic acid | 31 mmol, 5.62 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | piperidine | 28 mmol, 2.40 g | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 4'-Diethylamino-4-nitrostilbene | C(C)N(C1=CC=C(C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1)CC | C18H20N2O2
